US04209444
Into 0.2 g of 9,9;15,15-bis-(ethylenedioxy)-13-prostenoic acid, ethereal diazomethane solution is dropped until a pale yellow color just remains. The organic solution is washed several times with aqueous sodium acetate solution. The organic phase is dried over MgSO4 and the solvent distilled. As the residue, 9,9;15,15-bis-(ethylenedioxy)-13-prostenoic acid methyl ester is obtained.

reactant | 15,15-bis-(ethylenedioxy)-13-prostenoic acid | C1OC2(C=C[C@H]3CCC[C@@H]3CCCCCCC(=O)O)C(CCCC)(OCCO2)OC1 | C24H40O6
reactant | diazomethane | [N+](=[N-])=C | CH2N2
product | 15,15-bis-(ethylenedioxy)-13-prostenoic acid methyl ester | COC(CCCCCC[C@H]1CCC[C@@H]1C=CC12C(CCCC)(OCCO1)OCCO2)=O | C25H42O6
